US04962109
Preparation of 2,3,5,6-tetrafluoro-4-(methoxymethyl)benzyl (RS)-2-[2-(1,1-dimethylethyl)pyrimidin-5-yl]-3,3-dimethylbutanoate (Compound No 15).
A solution of (RS)-2-[2-(1,1-dimethylethyl)pyrimidin-5-yl]-3,3-dimethylbutanoic acid (0.1 q), 2,3,5,6-tetrafluoro-4-(methoxymethyl)benzyl alcohol (0.089 g) and 4-dimethylaminopyridine (0.002 g) in dry dichloromethane (4 cm3) was stirred at the ambient temperature (20° C.) whilst N,N'-dicyclohexylcarbodiimide (0.084 g) was added in portions; the mixture was stirred for 18 hours. The solution was passed through silica gel and the silica gel eluted with, firstly, dichloromethane and, secondly a 50:1 mixture (by volume) of dichloromethane and ethyl acetate Evaporation of the solvents of the combined filtrate and eluted fractions gave the title compound (0.09 g) as a colourless oil.

reactant | (RS)-2-[2-(1,1-dimethylethyl)pyrimidin-5-yl]-3,3-dimethylbutanoic acid | CC(C)(C)C1=NC=C(C=N1)C(C(=O)O)C(C)(C)C | C14H22N2O2
reactant | 2,3,5,6-tetrafluoro-4-(methoxymethyl)benzyl alcohol | 0.089 g | FC1=C(CO)C(=C(C(=C1F)COC)F)F | C9H8F4O2
reactant | N,N'-dicyclohexylcarbodiimide | 0.084 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.002 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 4 cm3 | ClCCl | CH2Cl2
product | 2,3,5,6-tetrafluoro-4-(methoxymethyl)benzyl (RS)-2-[2-(1,1-dimethylethyl)pyrimidin-5-yl]-3,3-dimethylbutanoate | 0.09 g | CC(C)(C)C1=NC=C(C=N1)C(C(=O)OCC1=C(C(=C(C(=C1F)F)COC)F)F)C(C)(C)C | C23H28F4N2O3
